US04353919
(a) 3-Acetyl-7-chloro-2(3H)-benzothiazolone
A mixture of 79.0 gm (0.32 mol) of [(2-chloro-6-nitro-phenyl)-thio]acetic acid, 150.0 gm (1.83 mol) of anhydrous sodium acetate and 600 ml of acetic acid anhydride was heated for 30 minutes at 100° C. The acetic acid anhydride was distilled off in an aspirator vacuum, the residue was stirred with 1 liter of water, and the precipitate was collected by suction filtration. After purification by chromatography on silica gel, using dichloromethane/ethyl acetate (volume ratio 1:1) for elution, the product was recrystallized from ethanol. 19.2 gm (26% of theory) of colorless crystals with a melting point of 74° C. were obtained.

reactant | [(2-chloro-6-nitro-phenyl)-thio]acetic acid | 0.32 mol, 79.0 gm | ClC1=C(C(=CC=C1)[N+](=O)[O-])SCC(=O)O | C8H6ClNO4S
reactant | sodium acetate | 1.83 mol, 150.0 gm | C(C)(=O)[O-].[Na+]
reactant | acetic acid anhydride | 600 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-Acetyl-7-chloro-2(3H)-benzothiazolone | C(C)(=O)N1C(SC2=C1C=CC=C2Cl)=O | C9H6ClNO2S
